US06987195B2
Preparation of PPG-6 2-Phenoxyethanol Ether
To a clean, dry stirred tank pressure vessel with nitrogen inlet is charged 1419.53 9 (10.27 moles) of 2-Phenoxyethanol and a catalytic amount (16.67 g) of 45% KOH. The vessel is purged with nitrogen and heated to 110° C. Vacuum is applied for 1 hour to remove trace amounts of water and the temperature is raised to 150° C. Propylene Oxide in the amount of 3580.47 g (61.65 moles) is added at a constant rate to keep the pressure below 50 psig. After all Propylene Oxide is added, the reaction mixture is allowed to react for an additional hour after which the temperature is lowered to 110° C. and vacuum is applied for one hour. The reaction mixture is cooled to 65° C. and the catalyst is neutralized with an equivalent molar amount of 25% Sulfuric Acid.

reactant | 2-Phenoxyethanol | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | KOH | 16.67 g | [OH-].[K+]
reactant | Sulfuric Acid | S(O)(O)(=O)=O | H2O4S
product | 2-Phenoxyethanol Ether | O(C1=CC=CC=C1)CCO.CCOCC | InChI=1S/C8H10O2.C4H10O/c9-6-7-10-8-4-2-1-3-5-8;1-3-5-4-2/h1-5,9H,6-7H2;3-4H2,1-2H3
